US07291631B2
4-Hydroxypiperidine (0.25 g, 2.5 mmol) and (tert-butoxycarbonylimino-pyrazol-1-yl-methyl)-carbamic acid tert-butyl ester (0.78 g, 2.2 mmol) (Drake, B. et al. Synthesis 1994, 6, 579-582) were dissolved in THF (1 mL) and stirred for 1 hour. The solvent was removed under reduced pressure and EtOAc (20 mL) was added. The organic was washed with an aqueous solution of 15% NaOH (5×15 mL), dried (Na2SO4) and concentrated under reduced pressure to afford [tert-butoxycarbonylimino-(4-hydroxy-piperidin-1-yl)-methyl]-carbamic acid tert-butyl ester as a white solid (0.47 g, 55%).

reactant | 4-Hydroxypiperidine | 2.5 mmol, 0.25 g | OC1CCNCC1 | C5H11NO
reactant | (tert-butoxycarbonylimino-pyrazol-1-yl-methyl)-carbamic acid tert-butyl ester | 2.2 mmol, 0.78 g | C(C)(C)(C)OC(NC(N1N=CC=C1)=NC(=O)OC(C)(C)C)=O | C14H22N4O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [tert-butoxycarbonylimino-(4-hydroxy-piperidin-1-yl)-methyl]-carbamic acid tert-butyl ester | 0.47 g, 55% | C(C)(C)(C)OC(NC(N1CCC(CC1)O)=NC(=O)OC(C)(C)C)=O | C16H29N3O5
